US06551682B1
A reaction flask was loaded with 3-hydroxy-2-nitropyridine (20 g), dimethylformamide (80 ml), and potassium carbonate (23.4 g), and they were mixed, followed by dropwise addition of methyl iodide (52.4 g) to the flask in 2.2 hours. After stirring overnight, water was added to this for crystallization. The crystals were filtrated for collection and dried to give 3-methoxy-2-nitropyridine (16.5 g).

reactant | 3-hydroxy-2-nitropyridine | 20 g | OC=1C(=NC=CC1)[N+](=O)[O-] | C5H4N2O3
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 23.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 52.4 g | CI | CH3I
solvent | water | O | H2O
product | 3-methoxy-2-nitropyridine | 16.5 g | COC=1C(=NC=CC1)[N+](=O)[O-] | C6H6N2O3
